US05166214
Preparation of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N-heptyl-N'-propylurea
To a solution of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-1-heptanamine (0.36 g, 0.0008 mol) in hexane (15 mL) was added propylisocyanate (0.094 mL, 0.085 g, 0.001 mol), and the reaction mixture was stirred at ambient temperature for 4 hours. The reaction mixture was then treated with additional propylisocyanate (0.094 mL, 0.085 g, 0.001 mol) and stirred at ambient temperature overnight and then at reflux for 72 hours. The reaction mixture was concentrated under vacuum and the residue was chromatographed using 2:8 hexane-ethyl acetate. The resulting oil was triturated with hexane to give the title compound (0.8 g, 0.00015 mol) as a white solid, mp 78°-80°. 1H NMR (CDCl3) 7.6-7.2(m,10H), 4.4(t,1H,J=7Hz), 3.4-2.9(m,8H), 1.9-1.1(m,19H), 1.0-0.75(m,6H).

reactant | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-1-heptanamine | 0.0008 mol, 0.36 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCNCCCCCCC | C27H37N3S
reactant | propylisocyanate | 0.001 mol, 0.094 mL, 0.085 g | C(CC)N=C=O | C4H7NO
reactant | propylisocyanate | 0.001 mol, 0.094 mL, 0.085 g | C(CC)N=C=O | C4H7NO
solvent | hexane | 15 mL | CCCCCC | C6H14
product | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N-heptyl-N'-propylurea | 0.00015 mol, 0.8 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCN(C(=O)NCCC)CCCCCCC | C31H44N4OS
